US07935709B2
Step C: N-Cyclopropyl-4-methyl-3-(1-(2-morpholinoethyl)-2-oxo-1,2-dihydroquinazolin-6-yl)benzamide
The title compound was prepared as pale yellow solid, using 6-Bromo-1-(2-morpholinoethyl)quinazolin-2(1H)-one and N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide, by a method analogous to that described in Example 3 above. MS m/e 433 (M+H)+.

reactant | 6-Bromo-1-(2-morpholinoethyl)quinazolin-2(1H)-one | BrC=1C=C2C=NC(N(C2=CC1)CCN1CCOCC1)=O | C14H16BrN3O2
reactant | N-cyclopropyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)B1OC(C(O1)(C)C)(C)C)=O | C17H24BNO3
product | N-Cyclopropyl-4-methyl-3-(1-(2-morpholinoethyl)-2-oxo-1,2-dihydroquinazolin-6-yl)benzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NC(N(C2=CC1)CCN1CCOCC1)=O)=O | C25H28N4O3
